US05187192
To a solution of 3-(3-methoxyphenyl)cyclobutylhydroxylamine (34.8 mmol), prepared according to the procedure described in Example 1 substituting 3-methoxybenzaldehyde for 3-(4-fluorophenoxy)benzaldehyde, in CH2Cl2 (150 mL) at 0° C., was added acetyl chloride (8.20 g, 104.4 mmol) followed by the dropwise addition of triethylamine and a few crystals of N,N-dimethylaminopyridine. The cooling bath was withdrawn and the reaction allowed to warm to ambient temperature. It was then diluted with brine (100 mL) and the layers were separated. The aqueous phase was extracted with CH2Cl2 (2×100 mL). The organics were combined, dried over MgSO4 and concentrated to afford crude N-acetoxy-N-[3-(3-methoxyphenyl)cyclobutyl]-acetamide.

reactant | 3-(3-methoxyphenyl)cyclobutylhydroxylamine | 34.8 mmol | COC=1C=C(C=CC1)C1CC(C1)NO | C11H15NO2
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | 3-(4-fluorophenoxy)benzaldehyde | FC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9FO2
reactant | acetyl chloride | 104.4 mmol, 8.20 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-acetoxy-N-[3-(3-methoxyphenyl)cyclobutyl]-acetamide | C(C)(=O)ON(C(C)=O)C1CC(C1)C1=CC(=CC=C1)OC | C15H19NO4
